US20010000513A1
In a manner similar to Example 4, Step (b), 4-(3′,4′-dichloro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester (1.360 g, 0.004033 mol) was refluxed in 6 M aqueous hydrochloric acid (25 mL) to give 1.280 g of 4-(3′,4′-dichloro-biphenyl-4-yl)-4-oxo-butyric acid as a white solid; mp 154-156° C.

reactant | 4-(3′,4′-dichloro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | 0.004033 mol, 1.360 g | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C17H14Cl2O3
solvent | hydrochloric acid | 6 M, 25 mL | Cl | ClH
product | 4-(3′,4′-dichloro-biphenyl-4-yl)-4-oxo-butyric acid | 1.280 g | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H12Cl2O3
